US07576094B2
To a solution of ethyl 1-((4-methoxy-2,3,5-trimethylpheny-lamino)methyl)cyclobutane-carboxylate (500 mg) in ethanol (10 mL), was added a KOH solution (2.5 mL). The mixture was left overnight and the ethanol was evaporated. After addition of water, the mixture was acidified with HCl (3 M) to reach a pH of 1-2. The aqueous phase was extracted with ethylacetate and the organic phase was dried with Na2SO4 and evaporated to give 1-((4-methoxy-2,3,5-trimethylphenyl-amino)-methyl)cyclobutane carboxylic acid (440 mg ) as a foam, which was used for next step. 10 mL of the foam was mixed with toluene (10 mL) and phosphoric acid (1 mL). The mixture was heated up in an oil bath, and after 30 min, the mixture was cooled and quenched with water. Dichloromethane was used to extract the aqueous phase several times. The organic phase was then combined, dried and evaporated to give a solid, which was passed through a column (Hexane: EtOAc; 5:2-5:4) to give 6′-methoxy-5′,7′,8′-trimethyl-1′H-spiro[cyclobutane-1,3′-quinolin]-4′(2′H)-one as a yellow solid. 1H-NMR, (300 MHz, CDCl3) δ=4.18 (s, 1H), 3.6 (s, 3H), 3.53(s, 2H), 2.58(s, 3H), 2.515-2.322 (m, 2H), 2.25 (s, 3H), 2.05 (s, 3H), 2.022-1.769 (m, 4H). ppm. 13C-NMR, (75 MHz, CDCl3) δ=197.89, 147.22, 136.52, 131.29, 118.77, 114.58, 60.48, 50.64, 47.26, 25.89, 14.9, 14.48, 13.78, 12.91 ppm. MS: m/z 260.2 (M+H+)

reactant | ethyl 1-((4-methoxy-2,3,5-trimethylpheny-lamino)methyl)cyclobutane-carboxylate | 500 mg | COC1=C(C(=C(C=C1C)NCC1(CCC1)C(=O)OCC)C)C | C18H27NO3
reactant | KOH | 2.5 mL | [OH-].[K+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1-((4-methoxy-2,3,5-trimethylphenyl-amino)-methyl)cyclobutane carboxylic acid | 440 mg | COC1=C(C(=C(C=C1C)NCC1(CCC1)C(=O)O)C)C | C16H23NO3
